US05514680
To 3-acetamido-6-fluorobenzotrifluoride (2.4 g, 10.85 mmol) in concentrated H2SO4 (10 mL) at 0° C. was added dropwise 70% HNO3 (1.5 mL, Baker). The mixture was stirred at 0° C. for 0.5 h, then at room temperature for 3 h and it was poured into ice water (20 g). The precipitate was collected by filtration, affording 2.6 g (90%) of crude 3-acetamido-6-fluoro-4-nitrobenzotrifluoride. It was crystallized from EtOH/H2O to give 2.1 g of pure compound as yellow needles. 1H NMR (CDCl3): δ2.318 (s, 3H), 8.062 (d, 1H, J=9.6 Hz), 9.196 (s, 1H), 10.152 (s, 1H).

reactant | 3-acetamido-6-fluorobenzotrifluoride | 10.85 mmol, 2.4 g | C(C)(=O)NC=1C=C(C(=CC1)F)C(F)(F)F | C9H7F4NO
reactant | HNO3 | 1.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | 3-acetamido-6-fluoro-4-nitrobenzotrifluoride | 2.6 g, 90% | C(C)(=O)NC=1C=C(C(=CC1[N+](=O)[O-])F)C(F)(F)F | C9H6F4N2O3
